US08426447B2
A vial charged with potassium carbonate (0.338 g, 2.444 mmol), (S)-3-bromo-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (0.100 g, 0.244 mmol), azetidine hydrochloride (0.209 g, 3.67 mmol), copper(i) iodide (4.65 mg, 0.024 mmol), and palladiumtetrakistriphenylphosphine (0.028 g, 0.024 mmol) was treated with 2 mL DMF and was thoroughly degassed with argon gas. 3-chloro-3-methylbut-1-yne (0.125 g, 1.222 mmol) was added, the vial was placed under argon, and was heated to 80° C. for 4 hours. The reaction mixture was poured into water and was extracted with EtOAc. The organics were washed with brine, dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography gave (S)-3-(3-(azetidin-1-yl)-3-methylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine.

reactant | potassium carbonate | 2.444 mmol, 0.338 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-3-bromo-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.244 mmol, 0.100 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C19H13BrN4O2
reactant | azetidine hydrochloride | 3.67 mmol, 0.209 g | Cl.N1CCC1
reactant | 3-chloro-3-methylbut-1-yne | 1.222 mmol, 0.125 g | ClC(C#C)(C)C | C5H7Cl
catalyst | copper(i) iodide | 0.024 mmol, 4.65 mg | [Cu]I
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-(azetidin-1-yl)-3-methylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | N1(CCC1)C(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1)(C)C | C27H25N5O2
